US04599361
E and Z benzyl 3-(ethoxycarbonyl)-2-(2-methylpropyl)butenoate (5.0 g.) was hydrogenated at 120 psi at 60° C. in methanol (50 mls.) in the presence of 10% palladium on charcoal (0.25 g.) for 48 hours. The resultant mixture was filtered through Celite and the solvent removed by evaporation in vacuo to yield 3-(ethoxycarbonyl)-2-(2-methylpropyl)butanoic acid as a mixture of isomers in the form of a thick oil.

reactant | benzyl 3-(ethoxycarbonyl)-2-(2-methylpropyl)butenoate | 5.0 g | C(C)OC(=O)C(=C(C(=O)OCC1=CC=CC=C1)CC(C)C)C | C18H24O4
solvent | methanol | 50 mls | CO | CH4O
catalyst | palladium on charcoal | 0.25 g | [Pd] | Pd
product | 3-(ethoxycarbonyl)-2-(2-methylpropyl)butanoic acid | C(C)OC(=O)C(C(C(=O)O)CC(C)C)C | C11H20O4
